US09079902B2
A round-bottom flask was charged with 1-bromo-2-iodo-4-(trifluoromethyl)benzene (5.00 g, 14.25 mmol), 1-methyl-1h-pyrazole-5-boronic acid pinacol ester (3.41 g, 16.39 mmol), potassium phosphate (6.05 g, 28.5 mmol) and PdCl2(dppf)-CH2Cl2 (1.164 g, 1.425 mmol). The flask was flushed with Ar, and DMF (47.5 ml) was then added. The flask was sealed, heated to 60° C. for 12 h, then stirred at room temperature for 48 h. The mixture was diluted with water and extracted with EtOAc (3×). The combined organics were washed with brine, dried, and concentrated in vacuo. The crude product was purified by chromatography on silica gel (0 to 100% EtOAc/Heptane) to yield 5-(2-bromo-5-(trifluoromethyl)phenyl)-1-methyl-1H-pyrazole (2.956 g, 9.69 mmol, 68.0% yield) as a brown solid. 1H NMR (400 MHz, DMSO-d6) δ=8.06 (td, J=0.7, 8.1 Hz, 1 H), 7.86-7.73 (m, 2 H), 7.53 (d, J=2.0 Hz, 1 H), 6.41 (d, J=2.0 Hz, 1 H), 3.64 (s, 3 H). m/z (ESI) 305.0 (M+H)+.

reactant | 1-bromo-2-iodo-4-(trifluoromethyl)benzene | 14.25 mmol, 5.00 g | BrC1=C(C=C(C=C1)C(F)(F)F)I | C7H3BrF3I
reactant | 1-methyl-1h-pyrazole-5-boronic acid pinacol ester | 16.39 mmol, 3.41 g | CN1N=CC=C1B1OC(C)(C)C(C)(C)O1 | C10H17BN2O2
reactant | potassium phosphate | 28.5 mmol, 6.05 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | PdCl2(dppf) CH2Cl2 | 1.425 mmol, 1.164 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 5-(2-bromo-5-(trifluoromethyl)phenyl)-1-methyl-1H-pyrazole | 9.69 mmol, 2.956 g, 68.0% yield | BrC1=C(C=C(C=C1)C(F)(F)F)C1=CC=NN1C | C11H8BrF3N2
